US07745484B2
(4S,5S)-Tert-butyl 4-((2-chloropyridin-4-yl)methyl)-5-(hydroxymethyl)-2,2-dimethyloxazolidine-3-carboxylate (0.200 g, 0.560 mmol) was dissolved in a 25% solution of SODIUM METHOXIDE (12.8 ml, 56.0 mmol) in methanol and refluxed for 12 hrs and cooled. The reaction was diluted with water and extracted with EtOAc. The combined organic layers were washed with water, brine, dried over sodium sulfate and concentrated to give (4S,5S)-tert-butyl 5-(hydroxymethyl)-4-((2-methoxypyridin-4-yl)methyl)-2,2-dimethyloxazolidine-3-carboxylate, MS m/z: 353.3 (100%, M+1).

reactant | (4S,5S)-Tert-butyl 4-((2-chloropyridin-4-yl)methyl)-5-(hydroxymethyl)-2,2-dimethyloxazolidine-3-carboxylate | 0.560 mmol, 0.200 g | ClC1=NC=CC(=C1)C[C@@H]1N(C(O[C@@H]1CO)(C)C)C(=O)OC(C)(C)C | C17H25ClN2O4
reactant | SODIUM METHOXIDE | 56.0 mmol, 12.8 ml | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | (4S,5S)-tert-butyl 5-(hydroxymethyl)-4-((2-methoxypyridin-4-yl)methyl)-2,2-dimethyloxazolidine-3-carboxylate | OC[C@@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC1=CC(=NC=C1)OC | C18H28N2O5
